Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[H:1][O:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14]>>[C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])[H:14].[H:1][O:2],5.18361361698
[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])[H:8].[H:9]>>[H:1][C:2][O:3][C:4][O:5][C:6]([H:7])([H:8])[H:9],-4.72399096809
[C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][O:11][H:12].[H:1][C:2]>>[H:1][C:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])([H:9])[C:10][O:11][H:12],-4.8052415260400005
[H:1][O:2]/[C:3]=[C:4](\[O:5][H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13]>>[H:1][O:2][C:3][C:4](=[O:5])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[H:13].[H:6],2.7264836220700004
[H:10].[H:1][C:2]=[C:3]([H:4])[C:5](=[C:6]=[C:7]([H:8])[H:9])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])/[C:5](=[C:6]/[C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-1.67382996432
[C:2]([H:3])([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[O:1]>>[O:1][C:2]([H:3])([H:4])[O:5][C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.1869652723
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([C:8]([H:9])[H:10])=[C:11]([H:12])[H:13]>>[C:8]([H:9])[H:10].[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]=[C:11]([H:12])[H:13],5.500059190499999
[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][C:2][O:3][C:4][H:5]>>[H:1][C:2][O:3][C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.57433957154
[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])([H:9])[H:10]>>[H:10].[H:1][C:2]([H:3])[O:4][C:5][O:6][C:7]([H:8])[H:9],4.66732547809
[C:1]=[C:2]([H:3])[H:4].[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15]>>[C:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.17867383904
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C@@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])[C:11]([H:12])([H:13])[H:14].[O:9][H:10],5.373064347690001
[O:1]=[C:2]([H:3])[C:4][C:5]([H:6])([H:7])[H:8]>>[H:3].[O:1][C:2]#[C:4][C:5]([H:6])([H:7])[H:8],1.7284299376
[H:1][O:2][C:3][C:4]([H:5])([H:6])[C:7]=[C:8]([H:9])[H:10]>>[C:7]=[C:8]([H:9])[H:10].[H:1][O:2][C:3]=[C:4]([H:5])[H:6],1.87372370884
[H:1][O:2][C:3][C:4](=[C:5][H:6])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13].[H:7]>>[H:1][O:2][C:3][C:4](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])[H:13],-4.87852405459
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10]>>[C:2][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[H:10].[H:1][C:3],10.59751349
[C:1]#[C:2][O:3][C:4].[C:5]([H:6])([H:7])[O:8][H:9]>>[C:1]#[C:2][O:3][C:4][C:5]([H:6])([H:7])[O:8][H:9],-1.74031349539
[O:1]=[C:2]([H:3])[C@:4]([H:5])([O:6][H:7])[C:8]([H:9])([H:10])[H:11]>>[H:11].[O:1]=[C:2]([H:3])[C@@:4]([H:5])([O:6][H:7])[C:8]([H:9])[H:10],4.57293639203
[C:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14].[H:1][O:2][C:3]([H:4])([H:5])[C:6]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][C@:7]([H:8])([O:9][H:10])[C:11]([H:12])([H:13])[H:14],-3.6194456432
[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8][C:10]([H:11])([H:12])[H:13].[H:9]>>[H:1][O:2][C:3]([H:4])([H:5])[C:6][O:7][C:8]([H:9])[C:10]([H:11])([H:12])[H:13],-4.63644406072
[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11][C:12]([H:13])([H:14])[H:15]>>[H:10].[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])/[C:8]([H:9])=[C:11]\[C:12]([H:13])([H:14])[H:15],1.7778305122599998
[C:1].[C:2]([H:3])=[C:4]([O:5][O:6])[C:7]([H:8])([H:9])[H:10]>>[C:1]/[C:2]([H:3])=[C:4](\[O:5][O:6])[C:7]([H:8])([H:9])[H:10],-5.79905880026
[C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15].[O:1]>>[O:1][C:2]([H:3])([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])=[C:13]([H:14])[H:15],-4.03866466872
[H:1][O:2][C:3]#[C:4][C:5]([H:6])([H:7])[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]#[C:4][C:5]([H:6])=[C:8]([H:9])[H:10].[H:7],1.5880142415
[C:6]([H:7])=[C:8]([H:9])[H:10].[H:1][C:2]([H:3])([C:4]([H:5])[C:12]([H:13])([H:14])[H:15])[H:11]>>[H:1][C:2]([H:3])=[C:4]([H:5])[C:6]([H:7])([C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.3233968571300005
[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9].[O:1]>>[O:1]=[C:2]=[C:3]([O:4][H:5])[C:6]([H:7])([H:8])[H:9],-7.50656003359
[C:1]#[C:2][C:3]#[C:4][O:5][C:6][H:7]>>[C:1]#[C:2].[C:3]#[C:4][O:5][C:6][H:7],6.98117181978
[H:1][C:2]#[C:3][C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10]>>[C:4]#[C:5][C:6]([H:7])([H:8])[O:9][H:10].[H:1][C:2]#[C:3],7.4849050742299985
[O:1]=[C:2][H:3].[O:4]=[C:5]=[C:6]([H:7])[H:8]>>[O:1]=[C:2]([H:3])[O:4][C:5]=[C:6]([H:7])[H:8],-0.18713292072
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17].[H:7]>>[H:1][O:2][C:3]([H:4])[C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[C:14]([H:15])([H:16])[H:17],-1.95234524478
[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])=[C:9][H:10].[H:8]>>[C:1]#[C:2][C:3]([H:4])[O:5][C:6]([H:7])([H:8])[C:9][H:10],-1.6046091475600002
